US04792208
Diethyl 4-Methylmercaptobenzylphosphonate
4-Methylmercaptobenzyl chloride (160 g, 0.94 mol) was added dropwise, under nitrogen, with stirring to 183 g (1.1 mole) of triethylphosphite which was heated at reflux. When the addition of the 4-methylmercaptobenzyl chloride was completed, the mixture was refluxed for additional 4 hours. The product was distilled in vacuo to yield 229 g (89%) of water clear, viscous liquid bp 142°-145° C. (0.025 mm).

reactant | 4-Methylmercaptobenzyl chloride | 0.94 mol, 160 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | triethylphosphite | 1.1 mole, 183 g | C(C)OP(OCC)OCC | C6H15O3P
product | Diethyl 4-Methylmercaptobenzylphosphonate | CSC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H19O3PS
